US06511974B1
[4-(3-Methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone
The 4-(3-methylpyrazol-1-yl)benzoyl chloride was added to an ice-cooled solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.55 g) and diisopropylethylamine (0.44 g) in dichloromethane (25 ml). After stirring at room temperature for 18 hours, the reaction mixture was washed with water and a saturated aqueous sodium bicarbonate solution. The dichloromethane solution was dried over anhydrous sodium sulfate and filtered through a short column of hydrous sodium magnesium silicate and further eluted with several volumes of dichloromethane. The combined organic phase was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the title compound (0.90 g) was obtained as an amorphous solid, MS, m/z: 369 (M+H)+.

reactant | 4-(3-methylpyrazol-1-yl)benzoyl chloride | CC1=NN(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C11H9ClN2O
reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.55 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | diisopropylethylamine | 0.44 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | [4-(3-Methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 0.90 g | CC1=NN(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H20N4O
